US06518423B1
N-(Methanesulfonyl)-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamide
To a solution of 0.259 g of (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetic acid in tetrahydrofuran (10 ml) was added in a nitrogen atmosphere 0.18 g of carbonyldiimidazole and the resulting mixture was heated under reflux for 30 minutes. Then the reaction mixture was brought back to room temperature and 0.285 g of methanesulfonamide was added thereto. After stirring at room temperature for 16 hours, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.163 g of the title compound as a yellow solid.

reactant | (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetic acid | 0.259 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=O)O | C12H9N3O2S
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 0.285 g | CS(=O)(=O)N | CH5NO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(Methanesulfonyl)-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamide | 0.163 g | CS(=O)(=O)NC(CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1)=O | C13H12N4O3S2
